US07745641B2
5-Formylindole (500 mg, 3.44 mmol) was dissolved in acetonitrile (10 mL), and the solution was added with 1-(tert-butoxycarbonyl)piperazine (961 mg, 5.16 mmol), acetic acid (3.90 mL, 68.1 mmol) and sodium triacetoxyborohydride (3.65 g, 17.2 mmol) little by little, followed by stirring at room temperature for 2 hours. The reaction mixture was added with water and sodium carbonate to adjust the pH to 9, followed by extracting with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography (hexane/ethyl acetate=19/1, 7/3, 1/1) to obtain 5-[4-(tert-butoxycarbonyl)piperazin-1-ylmethyl]indole (505 mg, yield 47%).

reactant | 5-Formylindole | 3.44 mmol, 500 mg | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
reactant | 1-(tert-butoxycarbonyl)piperazine | 5.16 mmol, 961 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | acetic acid | 68.1 mmol, 3.90 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 17.2 mmol, 3.65 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 5-[4-(tert-butoxycarbonyl)piperazin-1-ylmethyl]indole | 505 mg, yield 47% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C=C2C=CNC2=CC1 | C18H25N3O2
